US04374843
A mixture of 50 g (609 mmol) of 4-methylimidazole in 250 ml of toluene was stirred at room temperature under nitrogen and 239 g (304 mmol) of acetyl chloride was added. The mixture was stirred at room temperature for 5 hours, filtered to remove insolubles and the filtrate concentrated giving 19 g (50%) of 1-acetyl-4-methyl-imidazole as a yellow oil which crystallizes on standing. nmr (CDCl3) (δ): 8.06 (s, 1H); 7.17 (s, 1H); 2.57 (s, 3H); 2.23 (s, 3H).

reactant | 4-methylimidazole | 609 mmol, 50 g | CC=1N=CNC1 | C4H6N2
reactant | acetyl chloride | 304 mmol, 239 g | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1-acetyl-4-methyl-imidazole | 19 g, 50% | C(C)(=O)N1C=NC(=C1)C | C6H8N2O
